US06414005B1
Synthesis of 5-nitro-2-(pyrrol-1-yl)benzoic acid
A mixture of 2-amino-5-nitrobenzoic acid (475 mg), 2,5-dimethoxytetrahydrofuran (345 mg) and acetic acid (10 ml) was heated under reflux for 3 hours and then concentrated at reduced pressure. Brine was added to the resulting residue and the mixture was extracted with ethyl acetate. The organic layer was dried with anhydrous sodium sulfate and then concentrated at reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent; ethyl acetate:n-hexane=1:1) to give the titled compound (yield, 73%).

reactant | 2-amino-5-nitrobenzoic acid | 475 mg | NC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H6N2O4
reactant | 2,5-dimethoxytetrahydrofuran | 345 mg | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 5-nitro-2-(pyrrol-1-yl)benzoic acid | 73% | [N+](=O)([O-])C=1C=CC(=C(C(=O)O)C1)N1C=CC=C1 | C11H8N2O4
